US07842810B2
3-Oxo-3,4-dihydro-2H-benzo[1,4]thiazine-6-carbaldehyde
6-Hydroxymethyl-4H-benzo[1,4]thiazin-3-one. To a 0° C. suspension of 3-oxo-3,4-dihydro-2H-benzo[1,4]thiazine-6-carboxylic acid (400 mg, 2 mmol) in THF (19 mL) was added Et3N (0.32 mL, 2 mmol) and the resulting solution was treated with iso-butylchloroformate (0.3 mL, 2 mmol). The resulting suspension was stirred at 0° C. for 2 h, filtered and the solid was washed with THF. The filtrate was cooled to 0° C., treated with NaBH4 (150 mg, 4.3 mmol) and slowly treated with H2O (10 mL). The resulting suspension was, warmed to RT and stirred for 18 h. The suspension was neutralized using 1 N HCl and diluted with H2O (100 mL). The organic layer was extracted with EtOAc (3×200 mL). The combined organic layers were dried (MgSO4), filtered and concentrated. The resulting residue was purified on SiO2 (0-10% CH3OH/CH2Cl2) to provide 330 mg (89%) of the title compound as a white solid. MS (ESI): exact mass calculated for C9H9NO2S, 195.04; m/z found, 196.1 [M+H]+. 1H NMR (500 MHz, CD3OD): 7.26 (d, J=7.9, 1H), 7.01-6.98 (m, 2H), 4.55 (s, 2H), 3.40 (s, 2H).

reactant | 6-Hydroxymethyl-4H-benzo[1,4]thiazin-3-one | OCC=1C=CC2=C(NC(CS2)=O)C1 | C9H9NO2S
reactant | 3-oxo-3,4-dihydro-2H-benzo[1,4]thiazine-6-carboxylic acid | 2 mmol, 400 mg | O=C1CSC2=C(N1)C=C(C=C2)C(=O)O | C9H7NO3S
reactant | Et3N | 2 mmol, 0.32 mL | CCN(CC)CC | C6H15N
reactant | iso-butylchloroformate | 2 mmol, 0.3 mL | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | NaBH4 | 4.3 mmol, 150 mg | [BH4-].[Na+]
reactant | HCl | 1 N | Cl | ClH
solvent | THF | 19 mL | C1CCOC1 | C4H8O
solvent | H2O | 100 mL | O | H2O
solvent | H2O | 10 mL | O | H2O
product | 3-Oxo-3,4-dihydro-2H-benzo[1,4]thiazine-6-carbaldehyde | 330 mg, 89% | O=C1CSC2=C(N1)C=C(C=C2)C=O | C9H7NO2S
